US07820704B2
4-(4-Isopropyl-phenyl)-thiazol-2-ylamine was prepared (0.41 g) following general procedure B using 2-bromo-1-(4-isopropyl-phenyl)-ethanone (0.5 g, 2.07 mmol), thiourea (173 mg, 2.28 mmol) and MeOH (10 mL). LCMS m/z: 219 (M+1)+.

reactant | 2-bromo-1-(4-isopropyl-phenyl)-ethanone | 2.07 mmol, 0.5 g | BrCC(=O)C1=CC=C(C=C1)C(C)C | C11H13BrO
reactant | thiourea | 2.28 mmol, 173 mg | NC(=S)N | CH4N2S
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(4-Isopropyl-phenyl)-thiazol-2-ylamine | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N | C12H14N2S
